US05037825
7.80 g of 2,3,4,5-tetrahydro-α-methyl-1-benzothiepine-8-methanol were dissolved in 100 ml of methylene chloride, treated with 50 g of manganese dioxide (MnO2) and the reaction mixture was stirred overnight. Thereafter, the mixture was filtered over a filter aid and the solution was evaporated. There were obtained 7.30 g of 2,3,4,5-tetrahydro-1-benzothiepin-8-yl methyl ketone as a colorless oil.

reactant | 2,3,4,5-tetrahydro-α-methyl-1-benzothiepine-8-methanol | 7.80 g | CC(O)C1=CC2=C(CCCCS2)C=C1 | C12H16OS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 50 g | [O-2].[O-2].[Mn+4]
product | 2,3,4,5-tetrahydro-1-benzothiepin-8-yl methyl ketone | 7.30 g | CC(=O)C1=CC2=C(CCCCS2)C=C1 | C12H14OS
